US08309562B2
(2-Aminomethyl-5-fluoro-quinazolin-4-yl)-(4-ethoxy-phenyl)-methyl-amine
(2-Chloromethyl-5-fluoro-quinazolin-4-yl)-(4-ethoxy-phenyl)-methyl-amine: NaH (60 mg, 1.5 mmol) was added to a solution of (2-chloromethyl-5-fluoro-quinazolin-4-yl)-(4-ethoxy-phenyl)-amine (184 mg, 0.5 mmol) and MeI (0.10 mL) in THF (2 mL) at rt and the reaction stirred for 2 h. MeOH and EtOAc were added. The organics were washed with brine, dried (MgSO4), filtered and concentrated. Purification by MPLC (SiO2, EtOAc/hexanes, 0-100%) provided the desired compound.

reactant | (2-Chloromethyl-5-fluoro-quinazolin-4-yl)-(4-ethoxy-phenyl)-methyl-amine | ClCC1=NC2=CC=CC(=C2C(=N1)N(C)C1=CC=C(C=C1)OCC)F | C18H17ClFN3O
reactant | NaH | 1.5 mmol, 60 mg | [H-].[Na+]
reactant | (2-chloromethyl-5-fluoro-quinazolin-4-yl)-(4-ethoxy-phenyl)-amine | 0.5 mmol, 184 mg | ClCC1=NC2=CC=CC(=C2C(=N1)NC1=CC=C(C=C1)OCC)F | C17H15ClFN3O
reactant | MeI | 0.10 mL | CI | CH3I
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | CO | CH4O
product | (2-Aminomethyl-5-fluoro-quinazolin-4-yl)-(4-ethoxy-phenyl)-methyl-amine | NCC1=NC2=CC=CC(=C2C(=N1)N(C)C1=CC=C(C=C1)OCC)F | C18H19FN4O
